US09029377B2
Step A: Preparation of 4-ethyl-2-nitroaniline (i-6a)
4-Ethylaniline (15.0 g, 124 mmol) was carefully added to acetic anhydride (100 mL, 1.06 mol) that was pre-cooled to 0° C., and the mixture was warmed to rt over 30 min, then recooled to 0° C., and nitric acid (7.90 mL of a 70% v/v aq. solution, 124 mL) was added dropwise. After 30 min, the reaction mixture was quenched into an ice-water bath, the resulting slurry was filtered, and the filter cake was dried in vacuo. The crude solid product was dissolved in 6M HCl (100 mL) and dioxane (60 mL), and the resulting mixture was heated at 0° C. After 3 h, the reaction mixture was cooled to rt and concentrated in vacuo. The crude residue was suspended in EtOAc and neutralized via addition of 6N NaOH. The layers were separated, and the aq. layer was extracted with EtOAc. The combined organics were washed with brine, dried (Na2SO4), filtered and concentrated in vacuo to afford the title compound, i-6a, m/z (ES) 167 (MH)+.

reactant | 4-Ethylaniline | 124 mmol, 15.0 g | C(C)C1=CC=C(N)C=C1 | C8H11N
reactant | acetic anhydride | 1.06 mol, 100 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
product | 4-ethyl-2-nitroaniline | C(C)C1=CC(=C(N)C=C1)[N+](=O)[O-] | C8H10N2O2
